US05624943
Under the conditions of example 1 C, a solution of 11 g of 3-(6-formyl-3-methoxy-2-pyridyl)-(2E)-2-propenoic acid methyl ester in 140 ml of tetrahydrofuran and 40 ml of methanol in the presence of 1.2 g of 10% palladium catalyst is hydrogenated on activated carbon and worked up. 11 g of 3-(6-hydroxymethyl-3-methoxy-2-pyridyl)-propionic acid methyl ester is obtained as oily crude product, which is reacted under the conditions of example 16 E with 78 g of manganese dioxide for 21/2 hours and is worked up. 8.92 g of 3-(6-formyl-3-methoxy-2-pyridyl)-propionic acid methyl ester of melting point 95°-97° C. is obtained.

reactant | 3-(6-formyl-3-methoxy-2-pyridyl)-(2E)-2-propenoic acid methyl ester | 11 g | COC(\C=C\C1=NC(=CC=C1OC)C=O)=O | C11H11NO4
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium | 1.2 g | [Pd] | Pd
product | 3-(6-hydroxymethyl-3-methoxy-2-pyridyl)-propionic acid methyl ester | 11 g | COC(CCC1=NC(=CC=C1OC)CO)=O | C11H15NO4
